US09428528B2
Step 2 Preparation of tert-butyl (1-(5-(4-((1R,2S)-2-(2,2-dichloroacetamido)-3-fluoro-1-hydroxypropyl)phenyl)thiophen-2-yl)ethyl)carbamate
The compound is prepared from tert-butyl (1-(5-bromothiophen-2-yl)ethyl)-carbamate (138 mg, 0.45 mmol) and 2,2-dichloro-N-((1R,2S)-3-fluoro-1-hydroxy-1-(4-(trimethylstannyl)phenyl)propan-2-yl)acetamide (200 mg, 0.45 mmol) in a manner analogous to Example 74, Step 2 to give the title compound (70 mg): 1H-NMR (400 MHz, CDCl3) δ: 1.47 (s, 9H), 1.57 (d, J=6.8 Hz, 3H), 2.68 (bs, 1H), 4.25-4.38 (m, 1H), 4.42-4.48 (m, 0.5H), 4.53-4.60 (m, 1H), 4.65-4.72 (m, 0.5H), 4.77-4.89 (m, 1H), 4.98-5.09 (m, 1H) 5.11 (d, J=4.0 Hz, 1H), 5.87 (s, 1H), 6.90 (d, J=3.5 Hz, 1H), 7.04 (d, J=8.6 Hz, 1H), 7.14 (d, J=3.8 Hz, 1H), 7.37 (d, J=8.1 Hz, 2H), 7.55 (m, 2H).

reactant | tert-butyl (1-(5-bromothiophen-2-yl)ethyl)-carbamate | 0.45 mmol, 138 mg | BrC1=CC=C(S1)C(C)NC(OC(C)(C)C)=O | C11H16BrNO2S
reactant | 2,2-dichloro-N-((1R,2S)-3-fluoro-1-hydroxy-1-(4-(trimethylstannyl)phenyl)propan-2-yl)acetamide | 0.45 mmol, 200 mg | ClC(C(=O)N[C@@H]([C@@H](C1=CC=C(C=C1)[Sn](C)(C)C)O)CF)Cl
product | tert-butyl (1-(5-(4-((1R,2S)-2-(2,2-dichloroacetamido)-3-fluoro-1-hydroxypropyl)phenyl)thiophen-2-yl)ethyl)carbamate | 70 mg | ClC(C(=O)N[C@@H]([C@H](O)C1=CC=C(C=C1)C1=CC=C(S1)C(C)NC(OC(C)(C)C)=O)CF)Cl | C22H27Cl2FN2O4S
